US07531542B2
2-(4-tert-butylphenyl)-7-nitro-1,3-benzooxazole:
A solution of 4-tert-butyl-N-(2-hydroxy-3-nitrophenyl)benzamide (0.35 g, 1.11 mmol) and pyridinium p-toluenesulfonate (200 mg, 0.8 mmol) in xylenes (25 mL) was heated in a 135° C. bath for 72 h. The solution was cooled to room temperature, and CH2Cl2 (100 mL) and H2O (25 mL) were added. The layers were separated, and the aqueous layer was extracted with CH2Cl2 (50 mL). The combined organic layers were washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to afford the title compound (0.260 g) as a golden solid. MS (ESI-POS): [M+H]+=297; Anal. Calcd for C17H16N2O3: C, 68.91; H, 5.44; N, 9.45. Found: C, 69.02; H, 5.43; N, 9.00.

reactant | 4-tert-butyl-N-(2-hydroxy-3-nitrophenyl)benzamide | 1.11 mmol, 0.35 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)[N+](=O)[O-])O)C=C1 | C17H18N2O4
reactant | pyridinium p-toluenesulfonate | 0.8 mmol, 200 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | 2-(4-tert-butylphenyl)-7-nitro-1,3-benzooxazole | 0.260 g | C(C)(C)(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2[N+](=O)[O-] | C17H16N2O3
